US04851387
162 mg of (2RS,3S)-3-benzyloxycarbonylamino-2-hydroxy-5-methylhexanoic acid 3,5-dimethylpyrazolide was dissolved in 1 ml of dry dichloromethane, and 102 μl of dihydropyran and 0.8 mg of p-toluenesulfonic acid monohydrate were added thereto. The mixture was stirred at room temperature for 1.5 hours. Then, 10 ml of chloroform was added to the mixture, and the mixture was washed with a 4% sodium hydrogencarbonate and a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain 207 mg of (2RS,3S)-3-benzyloxycarbonylamino-2-(2-tetrahydropyranyloxy)-5-methylhexanoic acid 3,5-dimethylpyrazolide as a colorless oily substance.

reactant | (2RS,3S)-3-benzyloxycarbonylamino-2-hydroxy-5-methylhexanoic acid 3,5-dimethylpyrazolide | 162 mg | CC1=N[N-]C(=C1)C.C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(=O)O)O)CC(C)C
reactant | dihydropyran | 102 μl | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 0.8 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (2RS,3S)-3-benzyloxycarbonylamino-2-(2-tetrahydropyranyloxy)-5-methylhexanoic acid 3,5-dimethylpyrazolide | 207 mg | CC1=N[N-]C(=C1)C.C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(=O)O)OC1OCCCC1)CC(C)C | InChI=1S/C20H29NO6.C5H7N2/c1-14(2)12-16(18(19(22)23)27-17-10-6-7-11-25-17)21-20(24)26-13-15-8-4-3-5-9-15;1-4-3-5(2)7-6-4/h3-5,8-9,14,16-18H,6-7,10-13H2,1-2H3,(H,21,24)(H,22,23);3H,1-2H3/q;-1/t16-,17?,18?;/m0./s1
